*
*           -C1-
*  1-Rx-Lx-6    8-Vam1-Rs-3
*          L4   E1
*          B4   |
*  2--------    ----------4
*
.subckt Transfo_impulsion 1 2 4 3 
Rx 1 5 {R1}
Lx 5 6 {L1}
L4 6 7 {Lp/30}
B4 7 2 V=V(6,7)*(30-1)/(1+(I(L4)/{Isat})**6)

RIsol 2 3 100Meg
F1 6 2 VAm1 {m}
E1 8 4 6 2 {m}
VAm1 8 9 0
RP 6 0 1Meg 
RS 9 3 1e-9 
C1  6 8 {C}
.ends
