################## Model Data Report #########
*none
.subckt DAC16 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19
**************************************************************
*** Stand Alone Model - 16 Bit Digital to Analog Converter ***
*** Input Values in the undefined state will cause erroneous tput.
*** Digital threshold levels must be adhered to.
**************************************************************
*Nodes 1 to 16 -- D0 to D15 -- LSB to MSB
*Node 19 -- Vref+
*Node 18 -- Output
*Node 17 -- Vref-
********************
**Set Output Range**
********************
rrefp 19 0 1e6
rrefn 17 0 1e6
********************
A1 1 0 0 0 0 0 rd0 0 SCHMITT
A2 2 0 0 0 0 0 rd1 0 SCHMITT
A3 3 0 0 0 0 0 rd2 0 SCHMITT
A4 4 0 0 0 0 0 rd3 0 SCHMITT
A5 5 0 0 0 0 0 rd4 0 SCHMITT
A6 6 0 0 0 0 0 rd5 0 SCHMITT
A7 7 0 0 0 0 0 rd7 0 SCHMITT
A8 8 0 0 0 0 0 rd8 0 SCHMITT
A9 9 0 0 0 0 0 rd9 0 SCHMITT
A10 10 0 0 0 0 0 rd10 0 SCHMITT
A11 11 0 0 0 0 0 rd11 0 SCHMITT
A12 12 0 0 0 0 0 rd12 0 SCHMITT
A13 13 0 0 0 0 0 rd13 0 SCHMITT
A14 14 0 0 0 0 0 rd14 0 SCHMITT
A15 15 0 0 0 0 0 rd15 0 SCHMITT
A16 16 0 0 0 0 0 rd16 0 SCHMITT
R1 N001 rd0 65536k
R2 N002 rd1 32768k
R3 N003 rd2 16384k
R4 N004 rd3 8196k
R5 N005 rd4 4096k
R6 N006 rd5 2048k
R7 N007 rd7 1024k
R8 N008 rd8 512k
R9 N009 rd9 256k
R10 N0010 rd10 128k
R11 N0011 rd11 64k
R12 N0012 rd12 32k
R13 N0013 rd13 16k
R14 N0014 rd14 8k
R15 N0015 rd15 4k
R16 N0016 rd16 2k

V1 N001 0 0
V2 N002 0 0
V3 N003 0 0
V4 N004 0 0
V5 N005 0 0
V6 N006 0 0
V7 N007 0 0
V8 N008 0 0
V9 N009 0 0
V10 N0010 0 0
V11 N0011 0 0
V12 N0012 0 0
V13 N0013 0 0
V14 N0014 0 0
V15 N0015 0 0
V16 N0016 0 0
B1 out1 0 V=I(V1)+i(V2)+i(V3)+i(V4)+i(V5)+i(V6)+i(V7)+i(V8)+I(V9)+i(V10)+i(V11)+i(V12)+i(V13)+i(V14)+i(V15)+i(V16)
B2 10 0 V={v(17)+1k*(V(19)-V(17))*V(out1)}
R10 10 0 1Meg
.ends
.subckt DAC16 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19
**************************************************************
*** Stand Alone Model - 16 Bit Digital to Analog Converter ***
*** Input Values in the undefined state will cause erroneous tput.
*** Digital threshold levels must be adhered to.
**************************************************************
*Nodes 1 to 12 -- D0 to D11 -- LSB to MSB
*Node 15 -- Vref+
*Node 14 -- Output
*Node 13 -- Vref-
********************
**Set Output Range**
********************
rrefp 15 0 1e6
rrefn 13 0 1e6
********************
A1 1 0 0 0 0 0 rd0 0 SCHMITT
A2 2 0 0 0 0 0 rd1 0 SCHMITT
A3 3 0 0 0 0 0 rd2 0 SCHMITT
A4 4 0 0 0 0 0 rd3 0 SCHMITT
A5 5 0 0 0 0 0 rd4 0 SCHMITT
A6 6 0 0 0 0 0 rd5 0 SCHMITT
A7 7 0 0 0 0 0 rd7 0 SCHMITT
A8 8 0 0 0 0 0 rd8 0 SCHMITT
A9 9 0 0 0 0 0 rd9 0 SCHMITT
A10 10 0 0 0 0 0 rd10 0 SCHMITT
A11 11 0 0 0 0 0 rd11 0 SCHMITT
A12 12 0 0 0 0 0 rd12 0 SCHMITT
R1 N001 rd0 4096k
R2 N002 rd1 2048k
R3 N003 rd2 1024k
R4 N004 rd3 512k
R5 N005 rd4 256k
R6 N006 rd5 128k
R7 N007 rd7 64k
R8 N008 rd8 32k
R9 N009 rd9 16k
R10 N0010 rd10 8k
R11 N0011 rd11 4k
R12 N0012 rd12 2k
V1 N001 0 0
V2 N002 0 0
V3 N003 0 0
V4 N004 0 0
V5 N005 0 0
V6 N006 0 0
V7 N007 0 0
V8 N008 0 0
V9 N009 0 0
V10 N0010 0 0
V11 N0011 0 0
V12 N0012 0 0
B1 out1 0 V=I(V1)+i(V2)+i(V3)+i(V4)+i(V5)+i(V6)+i(V7)+i(V8)+I(V9)+i(V10)+i(V11)+i(V12)
B2 10 0 V={v(13)+1k*(V(15)-V(13))*V(out1)}
R10 10 0 1Meg
.ends
.subckt DAC8 1 2 3 4 5 6 7 8 9 10 11 
**************************************************************
*** Stand Alone Model - 8 Bit Digital to Analog Converter ***
*** Input Values in the undefined state will cause erroneous tput.
*** Digital threshold levels must be adhered to.
**************************************************************
*Nodes 1 to 8 -- D0 to D7 -- LSB to MSB
*Node 11 -- Vref+
*Node 10 -- Output
*Node 9 -- Vref-
********************
**Set Output Range**
********************
rrefp 11 0 1e6
rrefn 9 0 1e6
********************
A1 1 0 0 0 0 0 rd0 0 SCHMITT
A2 2 0 0 0 0 0 rd1 0 SCHMITT
A3 3 0 0 0 0 0 rd2 0 SCHMITT
A4 4 0 0 0 0 0 rd3 0 SCHMITT
A5 5 0 0 0 0 0 rd4 0 SCHMITT
A6 6 0 0 0 0 0 rd5 0 SCHMITT
A7 7 0 0 0 0 0 rd7 0 SCHMITT
A8 8 0 0 0 0 0 rd8 0 SCHMITT
R1 N001 rd0 256k
R2 N002 rd1 128k
R3 N003 rd2 64k
R4 N004 rd3 32k
R5 N005 rd4 16k
R6 N006 rd5 8k
R7 N007 rd7 4k
R8 N008 rd8 2k

V1 N001 0 0
V2 N002 0 0
V3 N003 0 0
V4 N004 0 0
V5 N005 0 0
V6 N006 0 0
V7 N007 0 0
V8 N008 0 0
B1 out1 0 V=I(V1)+i(V2)+i(V3)+i(V4)+i(V5)+i(V6)+i(V7)+i(V8)
B2 10 0 V={v(9)+1k*(V(11)-V(9))*V(out1)}
R10 10 0 1Meg
.ends
