* C:\LTC\Tutoriel\TD3\Draft1.asc

.SUBCKT transfo_point_milieu in+ in- out+ outg out- 
XU1 in+ in- outg out+ Transfo_ideal LP=20m m=1 R1=1m
XU2 in+ in- out- outg Transfo_Ideal LP=20m m=1 R1=1m
.lib Transfo_ideal.sub
.ends


